US07557103B2
B. 4-Methoxy-3-methyl-benzofuran
(2-Acetyl-3-hydroxy-phenoxy)-acetic acid (2.0 g, 8.9 mmol) is added to acetic anhydride (60 ml) followed by sodium acetate (10.0 g, 122.0 mmol). The mixture is stirred and heated to 110° C., under a nitrogen atmosphere, for 5 hrs. then cooled to 0° C. Water (100 ml) is added slowly, stirred while warming to ambient temperature and continued stirring overnight. The solution is extracted twice with ethyl acetate and the combined organic extracts are washed twice with sodium hydroxide (1N), then brine, dried over Na2SO4, filtered and concentrated. The crude product is purified by chromatography using a hexane-ethyl acetate gradient (100% hexane to 25% ethyl acetate in hexane) to give the title compound (1.2 g, 83% yield).

reactant | (2-Acetyl-3-hydroxy-phenoxy)-acetic acid | 8.9 mmol, 2.0 g | C(C)(=O)C1=C(OCC(=O)O)C=CC=C1O | C10H10O5
reactant | acetic anhydride | 60 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | sodium acetate | 122.0 mmol, 10.0 g | C(C)(=O)[O-].[Na+]
solvent | Water | 100 ml | O | H2O
product | 4-Methoxy-3-methyl-benzofuran | 1.2 g, 83% yield | COC1=CC=CC2=C1C(=CO2)C | C10H10O2
